US09238647B2
Step A: 4-Amino-3-bromo-5-nitrobenzoic acid
To a solution of 4-amino-3-nitrobenzoic acid (2.50 g, 13.7 mmol) in dichloromethane (65.4 mL) and N,N-dimethylformamide (3.3 mL) was added N-bromosuccinamide (2.69 g, 15.1 mmol). The mixture was stirred at ambient temperature. After 15 min, the mixture was quenched with saturated sodium sulfite. Hydrochloric acid (1.0 M) was added and the mixture was extracted with dichloromethane. The combined organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated (3.65 g). LC-MS [M]=261.0.

reactant | 4-amino-3-nitrobenzoic acid | 13.7 mmol, 2.50 g | NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | N-bromosuccinamide | 15.1 mmol, 2.69 g | BrNC(CCC(=O)N)=O | C4H7BrN2O2
solvent | dichloromethane | 65.4 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 3.3 mL | CN(C=O)C | C3H7NO
product | 4-Amino-3-bromo-5-nitrobenzoic acid | NC1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])Br | C7H5BrN2O4
